US04576957
N-(2-Chlorophenyl)-N'-[4-(-1H-imidazol-1-yl)butyl]urea
A solution of 2.30 g. of o-chlorophenyl isocyanate in 30 ml. of toluene was added with stirring to a solution of 2.09 g. of 1H-imidazole-1-butanamine in 20 ml. of toluene and the mixture was allowed to stir overnight and them evaporates to a crystalline residue. The crystals were dissolved in methylene chloride and purified by HPLC (silica gel column, eluted with 10% ethanol/ethyl acetate) to obtain the desired compound, mp. 87°-88° C.

reactant | o-chlorophenyl isocyanate | ClC1=C(C=CC=C1)N=C=O | C7H4ClNO
reactant | 1H-imidazole-1-butanamine | N1(C=NC=C1)CCCCN | C7H13N3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(2-Chlorophenyl)-N'-[4-(-1H-imidazol-1-yl)butyl]urea | ClC1=C(C=CC=C1)NC(=O)NCCCCN1C=NC=C1 | C14H17ClN4O
